US08486950B2
2,6-dichloro-4-cyano-N-(pyridine-4-yl)benzamide
To the solution of 2,6-dichloro-4-iodo-N-(pyridin-4-yl)benzamide (0.15 g, 0.38 mmol) in DMF (2 mL) was added CuCN (0.17 g, 1.9 mmol). The mixture was heated at 150° C. under the irradiation of microwave for 1 hour. After the completion of the reaction, the mixture was filtered through Celite and purified by acid HPLC(YMC, 150 mm×30 mm, gradient: CH3CN/0.5% TFA, 10-50, 17 min) to afford the desired product (25.4 mg, yield: 23%). 1HNMR (DMSO-d6, 400 MHz): 611.95 (s, 1H), 8.74 (br, 2H), 8.33 (s, 2H), 7.97 (2H). LCMS (ESI) m/z: 292.1 [M+H+]

reactant | 2,6-dichloro-4-iodo-N-(pyridin-4-yl)benzamide | 0.38 mmol, 0.15 g | ClC1=C(C(=O)NC2=CC=NC=C2)C(=CC(=C1)I)Cl | C12H7Cl2IN2O
reactant | CuCN | 1.9 mmol, 0.17 g | C(#N)[Cu]
reactant | CH3CN | CC#N | C2H3N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2,6-dichloro-4-cyano-N-(pyridine-4-yl)benzamide | 25.4 mg, yield: 23% | ClC1=C(C(=O)NC2=CC=NC=C2)C(=CC(=C1)C#N)Cl | C13H7Cl2N3O
